US09238640B2
Preparation of 4-(4-(5,7-Dimethoxy-4-oxo-3,4-dihydroquinazolin-2-yl)phenyl)piperazine-1-carbaldehyde
A mixture of methyl formate (75 mL) and 5,7-dimethoxy-2-(4-(piperazin-1-yl)phenyl)quinazolin-4(3H)-one (0.300 g, 0.82 mmol) was heated at reflux for 48 hours. The mixture was concentrated, and purified by silica gel chromatography, eluting with 1:1 CH2Cl2/92:7:1 CHCl3/MeOH/concentrated NH4OH, to afford the title compound (0.320 g, 99%) as a white solid. 1H NMR (300 MHz, DMSO-d6): δ 11.79 (br s, 1H), 8.10-8.19 (m, 3H), 7.06 (d, J=9.1 Hz, 2H), 6.69 (d, J=2.3 Hz, 1H), 6.48 (d, J=2.3 Hz, 1H), 3.88 (s, 3H), 3.84 (s, 3H), 3.46-3.59 (m, 4H), 3.32-3.38 (m, 4H). APCI MS m/z 393 [M−H]−.

reactant | methyl formate | 75 mL | C(=O)OC | C2H4O2
reactant | 5,7-dimethoxy-2-(4-(piperazin-1-yl)phenyl)quinazolin-4(3H)-one | 0.82 mmol, 0.300 g | COC1=C2C(NC(=NC2=CC(=C1)OC)C1=CC=C(C=C1)N1CCNCC1)=O | C20H22N4O3
product | 4-(4-(5,7-Dimethoxy-4-oxo-3,4-dihydroquinazolin-2-yl)phenyl)piperazine-1-carbaldehyde | 0.320 g, 99% | COC1=C2C(NC(=NC2=CC(=C1)OC)C1=CC=C(C=C1)N1CCN(CC1)C=O)=O | C21H22N4O4
